US09371317B2
To a solution of tert-butyl(1-(2-cyano-3-nitrophenoxy)-2-methylpropan-2-yl)carbamate (45 g, 134 mmol) in ethyl acetate (200 mL) and ethanol (100 mL) was added 10% palladium on carbon (4.5 g). The reaction was stirred under H2 at 40 psi, and upon completion, the mixture was filtered through a pad of celite, and the filtrate was concentrated in vacuo to provide tert-butyl(1-(3-amino-2-cyanophenoxy)-2-methylpropan-2-yl)carbamate as a white solid (41 g, 100%). 1H NMR (DMSO-d6), 400 MHz: δ 1.26 (s, 6H), 1.34 (s, 9H), 4.00 (s, 2H), 5.96 (br s, 2H), 6.15 (d, J=8.0 Hz, 1H), 6.31 (d, J=8.0 Hz, 1H), 6.63 (br s, 1H), 7.14 (t, J=8.0 Hz, 1H). MS 206 (MH+).

reactant | tert-butyl(1-(2-cyano-3-nitrophenoxy)-2-methylpropan-2-yl)carbamate | 134 mmol, 45 g | C(C)(C)(C)OC(NC(COC1=C(C(=CC=C1)[N+](=O)[O-])C#N)(C)C)=O | C16H21N3O5
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 4.5 g | [Pd] | Pd
product | tert-butyl(1-(3-amino-2-cyanophenoxy)-2-methylpropan-2-yl)carbamate | 41 g, 100% | C(C)(C)(C)OC(NC(COC1=C(C(=CC=C1)N)C#N)(C)C)=O | C16H23N3O3
